US05071836
1a) Z-D-Phe-Ser(tBu)-OtBu
9.07 ml of N-ethylmorpholine and 16.05 g of DCC are added at 0° C. to a solution of 21.2 g of Z-D-Phe-OH, 9.6 g of HOBt and 17.9 g of HCl.H-Ser(tBu)-OtBu in 150 ml of dimethylformamide. The mixture is left to stir at 0° C. for one hour and to stand at room temperature overnight. The precipitate is filtered off with suction, and the filtrate is concentrated. The residue is partitioned between ethyl acetate and water. The ethyl acetate phase is extracted by shaking successively with saturated NaHCO3 solution, KHSO4 /K2SO4 solution and water, dried over Na2SO4 and concentrated. The substance crystallizes after trituration with petroleum ether.

reactant | N-ethylmorpholine | 9.07 ml | C(C)N1CCOCC1 | C6H13NO
reactant | DCC | 16.05 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | Z-D-Phe-OH | 21.2 g | N([C@H](CC1=CC=CC=C1)C(=O)O)C(=O)OCC1=CC=CC=C1 | C17H17NO4
reactant | HOBt | 9.6 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | HCl | 17.9 g | Cl | ClH
reactant | H-Ser(tBu)-OtBu | N[C@@H](COC(C)(C)C)C(=O)OC(C)(C)C | C11H23NO3
solvent | dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
product | Z-D-Phe-Ser(tBu)-OtBu | N([C@H](CC1=CC=CC=C1)C(=O)N[C@@H](COC(C)(C)C)C(=O)OC(C)(C)C)C(=O)OCC1=CC=CC=C1 | C28H38N2O6
